US05932595
To a solution of tetrahydropyran-4,4-dicarboxylic acid diethyl ester (400 mg, 1.74 mmol) in N,N-dimethylformamide (4 mL), was added lithium iodide (1.16 g, 8.66 mmol), followed by sodium cyanide (94 mg, 1.91 mmol). The mixture was heated at 130° C. for 7 hours, 140° C. for 25 hours, after which GC analysis indicated the reaction to be >95% complete. The mixture was partitioned between 33% diethyl ether/hexanes (100 mL) and brine (25 mL). The organic layer was washed with additional brine (25 mL), dried (MgSO4) and concentrated in vacuo to afford the tetrahydropyran-4-carboxylic acid ethyl ester (253 mg, 92%). Note: Substitution of 2 equivalents of sodium acetate for 1.1 equivalents of sodium cyanide in this reaction and heating 12 hours longer provides identical results.

reactant | tetrahydropyran-4,4-dicarboxylic acid diethyl ester | 1.74 mmol, 400 mg | C(C)OC(=O)C1(CCOCC1)C(=O)OCC | C11H18O5
reactant | lithium iodide | 8.66 mmol, 1.16 g | [I-].[Li+]
reactant | sodium cyanide | 1.91 mmol, 94 mg | [C-]#N.[Na+]
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | tetrahydropyran-4-carboxylic acid ethyl ester | 253 mg, 92% | C(C)OC(=O)C1CCOCC1 | C8H14O3
